US06242443B1
a) 2-Amino-5-trifluoromethylbenzenesulfonamide
A solution of 2-benzylamino-5-trifluoromethylbenzenesulfonamide (7.3 g) in methanol (80 mL) was supplemented with 10% Pd/C (0.73 g) and submitted to hydrogen under pressure (4 bars) during 90 min. at room temperature. The insoluble material was removed by filtration and the filtrate was concentrated to dryness. The residue was crystallized in methanol-water to give the title compound (yield: 5 g); m.p. 142-143° C.

reactant | 2-benzylamino-5-trifluoromethylbenzenesulfonamide | 7.3 g | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N | C14H13F3N2O2S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 80 mL | CO | CH4O
catalyst | Pd/C | 0.73 g | [Pd] | Pd
product | 2-Amino-5-trifluoromethylbenzenesulfonamide | yield: 5 g | NC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N | C7H7F3N2O2S
